US06800637B2
N-[4-(1-Benzofuran-3-yl)butyl]-N-(8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)amine
To a stirred solution of 4-benzofuran-3-yl-butylamine (770 mg, 4.07 mmol) in 6 mL of anhydrous DMSO was added [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate (611 mg mg, 1.36 mmol). The reaction mixture was heated to 50° C. overnight. The reaction was diluted with saturated aqueous sodium bicarbonate (10 mL) and extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with brine (3×30 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuum. Flash chromatography on SiO2 (5% MeOH/CH2Cl2) afforded 403 mg (74%) of the (S)-enantiomer of the title compound as a yellow oil. The fumarate salt was prepared, yielding 285 mg of a beige solid, m.p. 127-130° C.; MS (ESI) m/z 403 [M+H]+.

reactant | 4-benzofuran-3-yl-butylamine | 4.07 mmol, 770 mg | O1C=C(C=C2C1=CC=C2)NCCCC | C12H15NO
reactant | [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate | 1.36 mmol, 611 mg | BrC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C19H16BrNO5S
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
product | N-[4-(1-Benzofuran-3-yl)butyl]-N-(8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)amine | O1C=C(C2=C1C=CC=C2)CCCCNCC2COC=1C(=C3C=CC(=NC3=CC1)C)O2 | C25H26N2O3
